US05965589
Oily sodium hydride (60%, 0.10 g) was added to a solution of 5-[2-(4-hydroxyphenyl)ethyl]-2,4-thiazolidinedione (0.30 g) in N,N-dimethylformamide (20 ml), and the mixture was stirred at room temperature for 15 minutes. Then, 4-chloromethyl-5-methyl-2-phenyloxazole (0.29 g) was added, and the mixture was stirred at 90 to 100° C. for 2 hours. The reaction mixture was poured into water, acidified with 2N hydrochloric acid and extracted with ethyl acetate. The ethyl acetate layer was washed with water and dried over magnesium sulfate, and the solvent was evaporated. The residue was subjected to column chromatography on silica gel. The fractions eluted with ethyl acetate-chloroform (1:9, v/v) gave 5-[2-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)phenyl]ethyl]-2,4-thiazolidinedione (0.30 g, 59%). This product was recrystallized from dichloromethane-isopropyl ether. Colorless needles. mp: 146-147° C.

reactant | sodium hydride | 0.10 g | [H-].[Na+]
reactant | 5-[2-(4-hydroxyphenyl)ethyl]-2,4-thiazolidinedione | 0.30 g | OC1=CC=C(C=C1)CCC1C(NC(S1)=O)=O | C11H11NO3S
reactant | 4-chloromethyl-5-methyl-2-phenyloxazole | 0.29 g | ClCC=1N=C(OC1C)C1=CC=CC=C1 | C11H10ClNO
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 5-[2-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)phenyl]ethyl]-2,4-thiazolidinedione | 0.30 g, 59% | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=CC=C(C=C1)CCC1C(NC(S1)=O)=O | C22H20N2O4S
